US08334314B2
[Step a] Synthesis of (E)-methyl 3-(4-amino-2-methylphenyl)acrylate (Intermediate 7)
A solution of 4-bromo-3-methylaniline (5 g, TCI) in triethylamine (50 ml) was added with methyl acrylate (3.6 ml, TCI), tris(2-methylphenyl)phosphine (2.5 g, TCI), and palladium acetate (606 mg, WAKO), and stirred at 90° C. for 18 hours. The reaction mixture was added with water (30 ml) and ethyl acetate (30 ml×2) for extraction, and then successively washed with saturated aqueous sodium hydrogencarbonate, saturated aqueous ammonium chloride, and saturated brine, the organic layer was dried, and the solvent was evaporated under reduced pressure. The residue was purified by column chromatography (Yamazen, n-hexane:ethyl acetate=3:1), and the solvent was evaporated under reduced pressure by using a rotary evaporator to obtain the title compound (yield: 4.0 g).

reactant | 4-bromo-3-methylaniline | 5 g | BrC1=C(C=C(N)C=C1)C | C7H8BrN
reactant | methyl acrylate | 3.6 ml | C(C=C)(=O)OC | C4H6O2
reactant | tris(2-methylphenyl)phosphine | 2.5 g | CC1=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C | C21H21P
reactant | water | 30 ml | O | H2O
solvent | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium acetate | 606 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | (E)-methyl 3-(4-amino-2-methylphenyl)acrylate | yield: 4.0 g | NC1=CC(=C(C=C1)/C=C/C(=O)OC)C | C11H13NO2
